US07763609B2
To a solution of (S)-methyl 2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carboxylate (0.074 g, 0.25 mmol) in EtOH (0.5 mL) was added NH2NH2 (0.023 mL, 0.75 mmol, 3 eq) and the mixture was stirred at RT for 4 h. The mixture was concentrated in vacuo to give 0.074 g (100%) of (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carbohydrazide (CY1, R6=Me) as a yellow solid. 1H NMR (CDCl3) δ 8.95 (s, 1H), 3.11 (s, 3H), 2.28 (m, 2H), 1.50 (s, 9H), 1.47 (s, 3H).

reactant | (S)-methyl 2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carboxylate | 0.25 mmol, 0.074 g | C(C)(C)(C)OC(=O)[C@@H]1N(C(CC(N1)(C(=O)OC)C)=O)C | C13H22N2O5
reactant | NH2NH2 | 0.75 mmol, 0.023 mL, 3 eq | NN | H4N2
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carbohydrazide | 0.074 g, 100% | C(C)(C)(C)OC(=O)[C@@H]1N(C(CC(N1)(C(=O)NN)C)=O)C | C12H22N4O4
